US06194487B1
Next, the 1,4-butanedisulfonyl chloride vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 8 minutes. Consequently, a polymerization reaction between 2,5-diamino-1,4-benzenedithiol and 1,4-butanedisulfonyl chloride took place on the surface of the base particles, forming a film of 2,5-diamino-1,4-benzenedithiol-1,4-butanedisulfonyl chloride co-polymer.

reactant | 1,4-butanedisulfonyl chloride | C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl | C4H8Cl2O4S2
reactant | 2,5-diamino-1,4-benzenedithiol | NC1=C(C=C(C(=C1)S)N)S | C6H8N2S2
product | 2,5-diamino-1,4-benzenedithiol 1,4-butanedisulfonyl chloride | NC1=C(C=C(C(=C1)S)N)S.C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl | InChI=1S/C6H8N2S2.C4H8Cl2O4S2/c7-3-1-5(9)4(8)2-6(3)10;5-11(7,8)3-1-2-4-12(6,9)10/h1-2,9-10H,7-8H2;1-4H2
